US06316444B1
To a stirred solution of 5-aminobenzimidazole (700 mg, 5.26 mmol, 1 eq) in DMF (21 mL) was added NaH (231 mg, 5.78 mmol, 1.1 eq, (60% suspension in oil)). The mixture was allowed to stir until gas evolution ceased. To the DMF solution was added 2-methylthio-4-chloropyrimidine (0.612 mL, 5.26 mmol, 1 eq) dropwise via syringe. The mixture was allowed to stir overnight. The DMF was removed under reduced pressure and the residue was diluted with water and extracted 3× with CH2Cl2. The organic extracts were combined, dried over anhydrous Na2SO4, filtered and concentrated under reduced pressure. The mixture was purified by preparative thin layer chromatography (cluted 2× with 3.5% MeOH/CH2Cl2) to give 149 mg 2-methylthio-4-[6-aminobenzimidazol-1-yl]pyrimidine (faster regioisomer) and 89 mg 2-methylthio-4-[5-aminobenzimidazol-i-yl]pyrimidine (slower regioisomer). 2-methylthio-4-[6-aminobenzimidazol-1-yl]pyrimidine (faster regioisomer): 1H NMR (500 MHz, CD3OD): δ8.68 (1H, s); 8.58 (1H, d, J=5.5 Hz); 7.68 (1H, d, J=2 Hz); 7.45 (2H, m); 6.81 (IH, dd, J=2 Hz, J=8.5 Hz); 2.67 (3H, s). 2-methylthio-4-[5-aminobenzimidazol-1-yl]pyrimidine (slower regioisomer): 1H NMR (500 MHz, CD3OD): δ8.81 (1H, s); 8.56 (1H, d, J=5.5 Hz); 8.11 (1H, d, J=8.5 Hz); 7.46 (1H, d, J=5.5 Hz); 7.04 (1H, d, J=2 Hz); 6.87 (1H, dd, J=2 Hz, J=8.5 Hz); 2.65 (3H, s).

reactant | 5-aminobenzimidazole | 5.26 mmol, 700 mg, 1 eq | NC1=CC2=C(N=CN2)C=C1 | C7H7N3
reactant | NaH | 5.78 mmol, 231 mg, 1.1 eq | [H-].[Na+]
reactant | 2-methylthio-4-chloropyrimidine | 5.26 mmol, 0.612 mL, 1 eq | CSC1=NC=CC(=N1)Cl | C5H5ClN2S
solvent | DMF | 21 mL | CN(C)C=O | C3H7NO
product | 2-methylthio-4-[6-aminobenzimidazol-1-yl]pyrimidine | 149 mg | CSC1=NC=CC(=N1)N1C=NC2=C1C=C(C=C2)N | C12H11N5S
